US07109148B2
First, 0.13 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride was added to a mixture of 0.30 g of [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetic acid (compound a-2), 56 mg of o-methylhydroxylamine, 68 mg of triethylamine, and 2 ml of N,N-dimethylformamide at room temperature, and the mixture was stirred for 2 hours. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 90 mg of N-methoxy-[3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetamide (compound a-104).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.13 g | Cl.CN(CCCN=C=NCC)C
reactant | [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetic acid | 0.30 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C19H12ClF4N3O6
reactant | o-methylhydroxylamine | 56 mg | CON | CH5NO
reactant | triethylamine | 68 mg | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-methoxy-[3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetamide | 90 mg | CONC(COC1=NC=CC=C1OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O | C20H15ClF4N4O6
